US05217999
3,4-Dihydroxybenzylidenecyanoacethydrazide
To 0.69 g (5 mmol) 3,4-dihydroxybenzaldehyde and 0.55 g (5.5 mmol) cyanoacethydrazide in 40 ml ethanol was added 2 drops piperidine. After 21/2 hours of reflux, the reaction mixture was cooled, filtered and washed with cold ethanol to give 0.55 g (50% yield) of product, an orange solid, m.p. 220° C. (decomposition).

reactant | 3,4-dihydroxybenzaldehyde | 5 mmol, 0.69 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cyanoacethydrazide | 5.5 mmol, 0.55 g | C(#N)CC(=O)NN | C3H5N3O
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
product | 3,4-Dihydroxybenzylidenecyanoacethydrazide | 0.55 g, 50% yield | OC=1C=C(C=C(C(=O)NN)C#N)C=CC1O | C10H9N3O3
